US04200641
A mixture of 42.6 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 38 parts of 1-(diphenylmethyl)piperazine, 48 parts of sodium carbonate and 400 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The 4-methyl-2-pentanone-phase is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one as a residue.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O)C2=CC=CC=C2 | C30H34N4O
